US05234821
In 20 ml of isopropyl ether saturated with water was dissolved 546 mg of bis(pivaloyloxymethyl) 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl) -3,5-pyridinedicarboxylate obtained in Example 2-(3), and 200 mg of Lipase B was added thereto, followed by stirring at room temeprature for 35 hours. Any insoluble matter was removed by filtration and washed with dichloromethane, and the filtrate was concentrated under reduced pressure. The resulting residue was purified by short silica gel column chromatography (ethyl acetate/hexane=1/3) to obtain 35 mg (yield: 83%) of (S)-1,4-dihydro 2,6-dimethyl-4-(3-nitrophenyl)-5-pivaloyloxymethoxycarbonyl-3-pyridinecarboxylic acid as a pale yellow crystal.

reactant | bis(pivaloyloxymethyl) 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl) -3,5-pyridinedicarboxylate | 546 mg | CC=1NC(=C(C(C1C(=O)OCOC(C(C)(C)C)=O)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCOC(C(C)(C)C)=O)C | C27H34N2O10
solvent | isopropyl ether | 20 ml | C(C)(C)OC(C)C | C6H14O
solvent | water | O | H2O
product | (S)-1,4-dihydro 2,6-dimethyl-4-(3-nitrophenyl)-5-pivaloyloxymethoxycarbonyl-3-pyridinecarboxylic acid | 35 mg, yield: 83% | CC=1NC(=C([C@H](C1C(=O)O)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCOC(C(C)(C)C)=O)C | C21H24N2O8
